US08937073B2
5c) n-butyl(S)-3-[(5-tert-butoxycarbonylamino-pyridine-3-carbonyl)-amino]-tetrahydrofuran-3-carboxylate
A suspension of 5-tert-butoxycarbonylamino-pyridine-3-carboxylic acid (2.5 mmol) in 20 mL tetrahydrofuran was combined with N,N-carbodiimidazole (2.75 mmol) and stirred for 15 minutes at ambient temperature. Then a solution of n-butyl(S)-3-amino-tetrahydrofuran-3-carboxylate (2.5 mmol) in 4 mL tetrahydrofuran was added and the reaction mixture was stirred further overnight. Then the solvent was distilled off and the crude product thus obtained was purified by chromatography (silica gel; dichloromethane with 1-25% ethanol).

reactant | 5-tert-butoxycarbonylamino-pyridine-3-carboxylic acid | 2.5 mmol | C(C)(C)(C)OC(=O)NC=1C=C(C=NC1)C(=O)O | C11H14N2O4
reactant | n-butyl(S)-3-amino-tetrahydrofuran-3-carboxylate | 2.5 mmol | N[C@@]1(COCC1)C(=O)OCCCC | C9H17NO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | n-butyl(S)-3-[(5-tert-butoxycarbonylamino-pyridine-3-carbonyl)-amino]-tetrahydrofuran-3-carboxylate | Yield: 31% | C(C)(C)(C)OC(=O)NC=1C=C(C=NC1)C(=O)N[C@@]1(COCC1)C(=O)OCCCC | C20H29N3O6
